US07427612B2
rac-4-(5-Methanesulfonyl-2-morpholin-4-yl-benzoyl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester
rac-4-(2-Iodo-5-methanesulfonyl-benzoyl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (400 mg, 0.78 mmol) was poured into morpholine (5.0 ml) and the reaction mixture was stirred for 15 h at 100° C. before being concentrated in vacuo. The residue was then purified by column chromatography (SiO2, 20 g, dichloromethane/methanol=0-5%) to give the title compound as a colorless foam (322 mg, 88%). MS (m/e): 468.3 (M+H+).

reactant | rac-4-(2-Iodo-5-methanesulfonyl-benzoyl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.78 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)I)=O)C | C18H25IN2O5S
reactant | morpholine | 5.0 ml | N1CCOCC1 | C4H9NO
product | rac-4-(5-Methanesulfonyl-2-morpholin-4-yl-benzoyl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 322 mg, 88% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)N1CCOCC1)=O)C | C22H33N3O6S
